US05389640
2-Morpholinomethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine
2-Chloromethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride (Example 28, prepared from 2.0 g of the alcohol) was added to morpholine (5.0 mL) and the mixture was refluxed for 4 hr. The mixture was then cooled to room temperature and the solid was filtered from the mixture. The solid was slurried in aqueous sodium bicarbonate solution, filtered from the mixture, and dried. A crude yield of 2.0 g of product as a white solid was obtained. The crude product was recrystallized from methanol/dichloromethane. m.p. >300° C.

reactant | 2-Chloromethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | Cl.ClCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC=CC=C1
reactant | morpholine | 5.0 mL | N1CCOCC1 | C4H9NO
product | 2-Morpholinomethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine | O1CCN(CC1)CC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC=CC=C1 | C22H23N5O
